### PR TITLE
Basic lemmas about sequences

### PR DESCRIPTION
**Pull request by affeldt-aist**
The purpose of this PR is to add a file `sequences.v` to gather standard definitions and lemmas about sequences. It certainly deserves to be improved (completed and generalized) but maybe it is worth having it as soon as possible to have a place to share lemmas, e..g, for increasing sequences, and to defer improvements to future PRs (PR #207 is such a PR). <del>There is also a file `sequences_examples.v` that defines a few standard sequences and proves a few lemmas about them, mostly as a test bed.</del>

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -0,0 +1,874 @@
...
+
+Definition sequence R := nat -> R.
+Notation "R ^nat" := (sequence R) : sequences_scope.
+Local Open Scope sequences_scope.
+
+Definition increasing (T : numDomainType) (u_ : T ^nat) := forall n, u_ n <= u_ n.+1.
+
+Definition decreasing (T : numDomainType) (u_ : T ^nat) := increasing (- u_).
+
+Lemma increasing_ler (T : numDomainType) (u_ : T ^nat) : increasing u_ ->
```
Comment (CohenCyril) [inline theories/sequences.v:58]: Please do not define increasing and decreasing as above: it is not very useful as a hypothesis. The one below `{homo u_ : n m / (n <= m)%nat >-> n <= m}` is way more suitable, so if you really feel the need, you may introduce `increasing_seq u_` as a notation for it, with the variants with decreasing `{homo u_ : n m / (n <= m)%nat >-> n >= m}` and no negation. In this case the "strict" versions with `mono` instead of `homo` should also have notations. It still makes sens to have the lemma `(forall n, u_ n <= u_ n.+1) -> increasing u_` (with variants for decreasing and strict, and also near `+oo`)

File: theories/normedtype.v [hunk 2]
```diff
@@ -1969,6 +2174,13 @@ Qed.
 
 End some_sets.
 
+Hint Extern 0 (open _) => now apply: open_gt : core.
```
Comment (CohenCyril) [inline theories/normedtype.v:2177]: replace by `solve[]`

File: theories/normedtype.v [hunk 3]
```diff
@@ -1580,65 +1583,287 @@ move=> x; rewrite -scaleN1r => P /scaler_continuous /=.
...
+Lemma is_cvg_cst a : cvg ((fun=> a) @ F).
+Proof. exact: (cvgP (cvg_cst _ _)). Qed.
+
+Lemma cvgN f a : f @ F --> a -> (- f) @ F --> - a.
+Proof. by move=> ?; apply: continuous_cvg => //; exact: opp_continuous. Qed.
+
+Lemma is_cvgN f : cvg (f @ F) -> cvg (- f @ F).
+Proof. by move=> /cvgN /cvgP. Qed.
+
+Lemma is_cvgN_LR f : cvg ((- f) @ F) = cvg (f @ F).
```
Comment (CohenCyril) [inline theories/normedtype.v:1652]: rename `_LR` to `E`

**Comment by CohenCyril** [comment]
I will start rebasing this branch

File: theories/sequences.v [hunk 4]
```diff
@@ -458,112 +469,91 @@ Proof. by rewrite /= invr_gt0 ltr0n. Qed.
...
-  move=> i; rewrite andbT => /andP[Mi _]; apply ltW; move: i Mi.
-  near: M.
-  have : \forall x \near \oo, `|u_ x| < e / 2.
+  rewrite -ltr_pdivl_mulr // mulrAC -[_^-1]ger0_norm // -[_^-1]subr0 distrC.
+  by near: n.
+- rewrite ltr_pdivr_mull ?ltr0n //.
+  rewrite (@le_lt_trans _ _ ((n - m)%:R * (e%:num / 2))) //; last first.
+    by rewrite ltr_pmul2r // ltr_nat ltnS leq_subr.
+  rewrite (le_trans (ler_norm_sum _ _ _)) //.
+  rewrite mulr_natl -(addr0 (_ *+ _)) -[subn _ _]subSS -iter_addr -big_const_nat.
```
Comment (CohenCyril) [inline theories/sequences.v:529]: use `sum_nat_const`

**Comment by affeldt-aist** [comment]
@ybertot : it is not yet up to mathcomp standards but here is a tentative proof for your information

**Comment by affeldt-aist** [comment]
TODO: Hardy's theorem (the true converse of Cesaro)...
